US07902239B2
4-[5-Amino-3-(4-morpholin-4-yl-phenylamino)-[1,2,4]triazol-1-yl]-3-fluoro-benzonitrile:
A mixture of 1-(2-fluoro-4-iodo-phenyl)-N3-(4-morpholino-phenyl)-1H-[1,2,4]triazole-3,5-diamine (0.48 g, 0.99 mmol) and copper (I) cyanide (0.09 g, 0.99 mmol) in HMPA (3 mL) was heated at 55° C. for 2 h, then poured into water (75 mL) and filtered, washing with water. The filter cake was suspended in chloroform (100 mL) and methanol (5 mL), was refluxed for 2 h, cooled, filtered and evaporated. Purification by semi-preparative HPLC provided the title compound (0.04 g, 9% yield) as a pale tan lyophilate.

reactant | 1-(2-fluoro-4-iodo-phenyl)-N3-(4-morpholino-phenyl)-1H-[1,2,4]triazole-3,5-diamine | 0.99 mmol, 0.48 g | FC1=C(C=CC(=C1)I)N1N=C(N=C1N)NC1=CC=C(C=C1)N1CCOCC1 | C18H18FIN6O
reactant | copper (I) cyanide | 0.99 mmol, 0.09 g | [Cu]C#N
reactant | water | 75 mL | O | H2O
solvent | HMPA | 3 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 4-[5-Amino-3-(4-morpholin-4-yl-phenylamino)-[1,2,4]triazol-1-yl]-3-fluoro-benzonitrile | 0.04 g, 9% yield | NC1=NC(=NN1C1=C(C=C(C#N)C=C1)F)NC1=CC=C(C=C1)N1CCOCC1 | C19H18FN7O
